US06503903B1
a) (2R)-2-Benzyl-N,4-dimethyl-N-[(1-methyl-1 H-indol-2-yl)methyl]-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxamide
According to the procedure of Example 8, except using tert-butyl (2R)-2-benzyl-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylate (0.75 g, 2.1 mmole), 1-methyl-2-(methylaminomethyl)indole (0.34 g, 2.1 mmole), Et3N (0.59 mL, 4.2 mmole), HOBt H2O (0.28 g, 2.1 mmole), and EDC.HCl (0.41 g, 2.1 mmole), the title compound (0.97 g, 100%) was prepared as an off-white solid following flash chromatography on silica gel (gradient: 80-90% EtOAc/hexanes): MS (ES) m/e 467.1 (M+H)+.

reactant | tert-butyl (2R)-2-benzyl-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylate | 2.1 mmole, 0.75 g | C(C1=CC=CC=C1)[C@H]1NC2=C(CN(C1=O)C)C=C(C=C2)C(=O)OC(C)(C)C | C22H26N2O3
reactant | 1-methyl-2-(methylaminomethyl)indole | 2.1 mmole, 0.34 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | Et3N | 4.2 mmole, 0.59 mL | CCN(CC)CC | C6H15N
reactant | HOBt H2O | 2.1 mmole, 0.28 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | EDC.HCl | 2.1 mmole, 0.41 g | CCN=C=NCCCN(C)C.Cl
product | (2R)-2-Benzyl-N,4-dimethyl-N-[(1-methyl-1 H-indol-2-yl)methyl]-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxamide | 0.97 g, 100% | C(C1=CC=CC=C1)[C@H]1NC2=C(CN(C1=O)C)C=C(C=C2)C(=O)N(CC=2N(C1=CC=CC=C1C2)C)C | C29H30N4O2
